US04554350
A mixture of (pyridin-3-yl)-thiourea (0.08 g) and the syn isomer of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-[2-(2-t-butoxycarbonylprop-2-yl-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (mixture of the two diastereoisomers in respect of the substituent in the 3-position) (0.55 g) in tetrahydrofuran (10 cc) is stirred for 35 minutes at 25° C. and then treated with pyridine (0.042 cc) and water (1 cc). The reaction mixture is stirred for 16 hours at 25° C. and then poured into a mixture of ethyl acetate (50 cc) and 0.2 N hydrochloric acid (50 cc). The organic solution is washed with a saturated solution of sodium bicarbonate (50 cc), water (3×50 cc) and then with a saturated solution of sodium chloride (20 cc) and dried over magnesium sulphate. The residue obtained after evaporation of the solvent to dryness under reduced pressure (4 kPa) at 30° C. is chromatographed on a column (height: 24 cm, diameter: 2 cm) containing silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.5 bar (50 kPa) with a mixture of cyclohexane and ethyl acetate (15/85 by volume) and 15 cc fractions being collected. Fractions 7 to 13 are combined and concentrated to dryness under reduced pressure (4 kPa) at 30° C. to give the syn isomer of 2-benzhydryloxycarbonyl-7-[2-(2-t-butoxycarbonylprop-2-yl-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.39 g) in the form of a hard yellow foam.

reactant | (pyridin-3-yl)-thiourea | 0.08 g | N1=CC(=CC=C1)NC(=S)N | C6H7N3S
reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-[2-(2-t-butoxycarbonylprop-2-yl-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC(C)(C)C(=O)OC(C)(C)C)=O)=O | C54H50BrN5O8S2
reactant | pyridine | 0.042 cc | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 0.2 N, 50 cc | Cl | ClH
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 1 cc | O | H2O
product | 2-benzhydryloxycarbonyl-7-[2-(2-t-butoxycarbonylprop-2-yl-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl-amino)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.39 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC=1C=NC=CC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC(C)(C)C(=O)OC(C)(C)C)=O)=O | C60H54N8O7S3
